US07612075B2
The crude (3S,5RS)-1-(4-chloro-quinolin-7-ylmethyl)-3,5-dimethyl-piperazin-2-one (69 mg, 0.20 mmol) obtained from above is dissolved in 1 mL of DMF. Potassium carbonate (76 mg, 0.60 mmol) is added followed by the addition of 2-(3-bromopropenyl)-5-chloro-thiophene (56 mg, 0.24 mmol). The reaction is left to stir overnight. The potassium carbonate is filtered off, and the crude material is purified. The two epimers are separated at this stage by preparative thin layer chromatography (80% EtOAc/hexane) to give a major epimer (3S, 5R)-1-(4-chloro-quinolin-7-ylmethyl)-4-[3-(5-chloro-thiophen-2-yl)-allyl]-3,5-dimethyl-piperazine-2-one (25 mg, 26% yield) and a minor epimer (3S, 5S)-1-(4-chloro-quinolin-7-ylmethyl)-4-[3-(5-chloro-thiophen-2-yl)-allyl]-3,5-dimethyl-piperazine-2-one (7 mg, 7.5% yield).

reactant | (3S,5RS)-1-(4-chloro-quinolin-7-ylmethyl)-3,5-dimethyl-piperazin-2-one | 0.20 mmol, 69 mg | ClC1=CC=NC2=CC(=CC=C12)CN1C([C@@H](NC(C1)C)C)=O | C16H18ClN3O
reactant | Potassium carbonate | 0.60 mmol, 76 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(3-bromopropenyl)-5-chloro-thiophene | 0.24 mmol, 56 mg | BrCC=CC=1SC(=CC1)Cl | C7H6BrClS
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (3S, 5R)-1-(4-chloro-quinolin-7-ylmethyl)-4-[3-(5-chloro-thiophen-2-yl)-allyl]-3,5-dimethyl-piperazine-2-one | 25 mg, 26% yield | ClC1=CC=NC2=CC(=CC=C12)CN1C([C@@H](N([C@@H](C1)C)CC=CC=1SC(=CC1)Cl)C)=O | C23H23Cl2N3OS
